US04380546
2,2,3-Trimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-ol
A solution of 6.0 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-one in 50 ml of tetrahydrofuran is added dropwise to a solution of 5.4 g of methyl-magnesium bromide in 28 ml of tetrahydrofuran, and after the slight exothermic reaction has subsided the mixture is left to stand for 24 hours at room temperature. It is then poured into 1,000 ml of 10% strength aqueous ammonium chloride solution and the batch is extracted twice with 200 ml of methylene chloride at a time. The organic phase is washed and dried over magnesium sulfate, and the methylene chloride is evaporated off under reduced pressure. 10 ml of diisopropyl ether are added to the residue, and 1.5 g of white crystals, of melting point 118°-120° C., are isolated from this mixture.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-one | 6.0 g | CC(C)(C(C(CCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C16H21N3O2
reactant | methyl-magnesium bromide | 5.4 g | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | 2,2,3-Trimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-ol | CC(C)(C(C(CCOC1=CC=CC=C1)N1N=CN=C1)(O)C)C | C17H25N3O2
